US03987160
Sodium nitrite (3 g.) was added slowly with stirring to a solution of concentrated hydrochloric acid (100 ml.) in water (100 ml.) maintained at between -5° and 0° C. by means of an ice/salt bath. 2-(2-Allyloxyphenyl)-4,5-diaminopyrimid-6-one (5.1 g.) was then added in portions during 30 minutes with stirring at between -5° and 0° C. The cooling bath was removed, and the mixture stirred at room temperature overnight. The solid which separated was filtered off and dissolved in a solution of concentrated ammonium hydroxide (10 ml.) in water (100 ml.). The solution was heated with charcoal, filtered, and the filtrate acidified with glacial acetic acid. The solid which separated was filtered off and recrystallised from methanol to give 2-(2-allyloxyphenyl)-8-azapurin-6-one (1.7 g.), m.p. 173°-175° C.

reactant | Sodium nitrite | 3 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | 2-(2-Allyloxyphenyl)-4,5-diaminopyrimid-6-one | 5.1 g | C(C=C)OC1=C(C=CC=C1)C=1NC(C(=C(N1)N)N)=O | C13H14N4O2
solvent | water | 100 ml | O | H2O
product | 2-(2-allyloxyphenyl)-8-azapurin-6-one | 1.7 g | C(C=C)OC1=C(C=CC=C1)C1=NC(C2=NN=NC2=N1)=O | C13H9N5O2
